US06320050B1
A solution of 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid (1.52 g, 5.0 mmol) in N,N-dimethylformamide (10 mL) was treated with sodium methanethiolate (0.59 g, 7.5 mmol). The reaction mixture was then heated to 100-110° C. for 14 h. At this time, the reaction was poured onto a mixture of ice and a 2N aqueous hydrochloric acid solution (25 mL). This mixture was extracted into ethyl acetate (3×35 mL) and diethyl ether (1×25 mL). The organics were then washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (3×75 mL). The organics were dried over magnesium sulfate and sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate w/acetic acid) afforded 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid (1.36 g, 83.4%) as a pale yellow oil: EI-HRMS m/e calcd for C16H19F3O2S (M+) 332.1058, found 332.1057.

reactant | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid | 5.0 mmol, 1.52 g | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)F)C(F)(F)F | C15H16F4O2
reactant | sodium methanethiolate | 7.5 mmol, 0.59 g | C[S-].[Na+]
reactant | hydrochloric acid | 2N, 25 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid | 1.36 g, 83.4% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)SC)C(F)(F)F | C16H19F3O2S
